US04958026
In the presence of 15.0 g of Raney nickel, 12.5 g of N-[2-(3-methoxy-4-nitrophenyl)ethyl]-trifluoroacetamide is hydrogenated in 250 ml of tetrahydrofuran. The product is recrystallized from ethyl acetate/hexane, thus obtaining 10.0 g of N-[2-(4-amino-3-methoxyphenyl)ethyl]trifluoroacetamide, mp 80°-81° C.

reactant | N-[2-(3-methoxy-4-nitrophenyl)ethyl]-trifluoroacetamide | 12.5 g | COC=1C=C(C=CC1[N+](=O)[O-])CCNC(C(F)(F)F)=O | C11H11F3N2O4
catalyst | Raney nickel | 15.0 g | [Ni] | Ni
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | N-[2-(4-amino-3-methoxyphenyl)ethyl]trifluoroacetamide | 10.0 g | NC1=C(C=C(C=C1)CCNC(C(F)(F)F)=O)OC | C11H13F3N2O2
